US08378104B2
Step A: N-[(4-bromothiophen-3-yl)methyl]-2-ethoxy-3-methoxypropanamide
To a suspension of sodium hydride (162 mg, 6.74 mmol) in THF (14 mL, 170 mmol) was added 2,2-diethoxyacetamide (949 mg, 6.45 mmol) in portions, followed by 3-bromo-4-(bromomethyl)thiophene (1.50 g, 5.86 mmol) dropwise as a solution in THF (3 mL) and sodium iodide (87.8 mg, 0.586 mmol). The reaction mixture was heated to reflux for 18 h and then concentrated. The residue was then partitioned between water (40 mL) and ethyl acetate (40 mL). The layers were separated and the aqueous layer was further extracted with ethyl acetate (2×30 mL). The combined organic fractions were dried over sodium sulfate, filtered, and concentrated. Purification by ISCO chromatography (5 to 30% ethyl acetate:heptane) afforded 729 mg (35%) of the title compound as a clear, colorless oil. 1H NMR (400 MHz, CDCl3): δ 7.26-7.29 (m, 1 H), 7.23-7.25 (m, 1 H), 6.99 (br. s., 1 H), 4.83 (s, 1 H), 4.44 (dd, J=6.1, 0.8 Hz, 2 H), 3.21-3.98 (m, 4 H), 1.25 (t, J=6.9 Hz, 6 H); MS (ESI): 322.17, 324.15 [M+H]+; HPLC tR=3.26 min (ZQ3, polar—4 min).

reactant | sodium hydride | 6.74 mmol, 162 mg | [H-].[Na+]
reactant | 2,2-diethoxyacetamide | 6.45 mmol, 949 mg | C(C)OC(C(=O)N)OCC | C6H13NO3
reactant | 3-bromo-4-(bromomethyl)thiophene | 5.86 mmol, 1.50 g | BrC1=CSC=C1CBr | C5H4Br2S
reactant | sodium iodide | 0.586 mmol, 87.8 mg | [I-].[Na+]
reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | THF | 170 mmol, 14 mL | C1CCOC1 | C4H8O
product | N-[(4-bromothiophen-3-yl)methyl]-2-ethoxy-3-methoxypropanamide | 729 mg, 35% | BrC=1C(=CSC1)CNC(C(COC)OCC)=O | C11H16BrNO3S
